US07235581B2
e) (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid Methylamide
300 mg (0.84 mmol) 1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic acid ethyl ester is dissolved in 2 ml N,N-dimethylformamide. 0.17 ml (4.2 mmol) of a 33% solution of methylamine in ethanol is added. The reaction vessel is tightly stoppered and heated to 120° C. for 24 hours. Addition of water precipitates the crude material. Chromatography (silica gel, dichloromethane/methanol) yields 41 mg (14%) of a yellowish solid. MS: m/e=343.2 (M+H)+.

reactant | 1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic acid ethyl ester | 0.84 mmol, 300 mg | C(C)OC(=O)C1C(N(CC1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C20H20FNO4
reactant | methylamine | CN | CH5N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid Methylamide | 41 mg, 14% | CNC(=O)C1C(N(CC1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C19H19FN2O3
